*-- pdngen: spice deck generated for chip 'chiplet6' PDN
*-- die chiplet6:  W/H: 0.004/0.002


.subckt chiplet6
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
*-- p/g port #: 50/50

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_500_1000 nd_1_0_1500_1000 0.016324
rd_1_2_0_0_1 nd_1_0_1500_1000 nd_1_0_2500_1000 0.016324
rd_1_2_0_0_2 nd_1_0_2500_1000 nd_1_0_3500_1000 0.016324
rd_1_2_0_0_3 nd_1_0_3500_1000 nd_1_0_4500_1000 0.016324
rd_1_2_0_0_4 nd_1_0_4500_1000 nd_1_0_5500_1000 0.016324
rd_1_2_0_0_5 nd_1_0_5500_1000 nd_1_0_6500_1000 0.016324
rd_1_2_0_0_6 nd_1_0_6500_1000 nd_1_0_7500_1000 0.016324
rd_1_2_0_0_7 nd_1_0_7500_1000 nd_1_0_8500_1000 0.016324
rd_1_2_0_0_8 nd_1_0_8500_1000 nd_1_0_9500_1000 0.016324
rd_1_2_0_1_0 nd_1_0_500_3000 nd_1_0_1500_3000 0.016324
rd_1_2_0_1_1 nd_1_0_1500_3000 nd_1_0_2500_3000 0.016324
rd_1_2_0_1_2 nd_1_0_2500_3000 nd_1_0_3500_3000 0.016324
rd_1_2_0_1_3 nd_1_0_3500_3000 nd_1_0_4500_3000 0.016324
rd_1_2_0_1_4 nd_1_0_4500_3000 nd_1_0_5500_3000 0.016324
rd_1_2_0_1_5 nd_1_0_5500_3000 nd_1_0_6500_3000 0.016324
rd_1_2_0_1_6 nd_1_0_6500_3000 nd_1_0_7500_3000 0.016324
rd_1_2_0_1_7 nd_1_0_7500_3000 nd_1_0_8500_3000 0.016324
rd_1_2_0_1_8 nd_1_0_8500_3000 nd_1_0_9500_3000 0.016324
rd_1_2_0_2_0 nd_1_0_500_5000 nd_1_0_1500_5000 0.016324
rd_1_2_0_2_1 nd_1_0_1500_5000 nd_1_0_2500_5000 0.016324
rd_1_2_0_2_2 nd_1_0_2500_5000 nd_1_0_3500_5000 0.016324
rd_1_2_0_2_3 nd_1_0_3500_5000 nd_1_0_4500_5000 0.016324
rd_1_2_0_2_4 nd_1_0_4500_5000 nd_1_0_5500_5000 0.016324
rd_1_2_0_2_5 nd_1_0_5500_5000 nd_1_0_6500_5000 0.016324
rd_1_2_0_2_6 nd_1_0_6500_5000 nd_1_0_7500_5000 0.016324
rd_1_2_0_2_7 nd_1_0_7500_5000 nd_1_0_8500_5000 0.016324
rd_1_2_0_2_8 nd_1_0_8500_5000 nd_1_0_9500_5000 0.016324
rd_1_2_0_3_0 nd_1_0_500_7000 nd_1_0_1500_7000 0.016324
rd_1_2_0_3_1 nd_1_0_1500_7000 nd_1_0_2500_7000 0.016324
rd_1_2_0_3_2 nd_1_0_2500_7000 nd_1_0_3500_7000 0.016324
rd_1_2_0_3_3 nd_1_0_3500_7000 nd_1_0_4500_7000 0.016324
rd_1_2_0_3_4 nd_1_0_4500_7000 nd_1_0_5500_7000 0.016324
rd_1_2_0_3_5 nd_1_0_5500_7000 nd_1_0_6500_7000 0.016324
rd_1_2_0_3_6 nd_1_0_6500_7000 nd_1_0_7500_7000 0.016324
rd_1_2_0_3_7 nd_1_0_7500_7000 nd_1_0_8500_7000 0.016324
rd_1_2_0_3_8 nd_1_0_8500_7000 nd_1_0_9500_7000 0.016324
rd_1_2_0_4_0 nd_1_0_500_9000 nd_1_0_1500_9000 0.016324
rd_1_2_0_4_1 nd_1_0_1500_9000 nd_1_0_2500_9000 0.016324
rd_1_2_0_4_2 nd_1_0_2500_9000 nd_1_0_3500_9000 0.016324
rd_1_2_0_4_3 nd_1_0_3500_9000 nd_1_0_4500_9000 0.016324
rd_1_2_0_4_4 nd_1_0_4500_9000 nd_1_0_5500_9000 0.016324
rd_1_2_0_4_5 nd_1_0_5500_9000 nd_1_0_6500_9000 0.016324
rd_1_2_0_4_6 nd_1_0_6500_9000 nd_1_0_7500_9000 0.016324
rd_1_2_0_4_7 nd_1_0_7500_9000 nd_1_0_8500_9000 0.016324
rd_1_2_0_4_8 nd_1_0_8500_9000 nd_1_0_9500_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_500_1000 nd_2_0_500_3000 0.016324
rd_2_1_0_0_1 nd_2_0_500_3000 nd_2_0_500_5000 0.016324
rd_2_1_0_0_2 nd_2_0_500_5000 nd_2_0_500_7000 0.016324
rd_2_1_0_0_3 nd_2_0_500_7000 nd_2_0_500_9000 0.016324
rd_2_1_0_1_0 nd_2_0_1500_1000 nd_2_0_1500_3000 0.016324
rd_2_1_0_1_1 nd_2_0_1500_3000 nd_2_0_1500_5000 0.016324
rd_2_1_0_1_2 nd_2_0_1500_5000 nd_2_0_1500_7000 0.016324
rd_2_1_0_1_3 nd_2_0_1500_7000 nd_2_0_1500_9000 0.016324
rd_2_1_0_2_0 nd_2_0_2500_1000 nd_2_0_2500_3000 0.016324
rd_2_1_0_2_1 nd_2_0_2500_3000 nd_2_0_2500_5000 0.016324
rd_2_1_0_2_2 nd_2_0_2500_5000 nd_2_0_2500_7000 0.016324
rd_2_1_0_2_3 nd_2_0_2500_7000 nd_2_0_2500_9000 0.016324
rd_2_1_0_3_0 nd_2_0_3500_1000 nd_2_0_3500_3000 0.016324
rd_2_1_0_3_1 nd_2_0_3500_3000 nd_2_0_3500_5000 0.016324
rd_2_1_0_3_2 nd_2_0_3500_5000 nd_2_0_3500_7000 0.016324
rd_2_1_0_3_3 nd_2_0_3500_7000 nd_2_0_3500_9000 0.016324
rd_2_1_0_4_0 nd_2_0_4500_1000 nd_2_0_4500_3000 0.016324
rd_2_1_0_4_1 nd_2_0_4500_3000 nd_2_0_4500_5000 0.016324
rd_2_1_0_4_2 nd_2_0_4500_5000 nd_2_0_4500_7000 0.016324
rd_2_1_0_4_3 nd_2_0_4500_7000 nd_2_0_4500_9000 0.016324
rd_2_1_0_5_0 nd_2_0_5500_1000 nd_2_0_5500_3000 0.016324
rd_2_1_0_5_1 nd_2_0_5500_3000 nd_2_0_5500_5000 0.016324
rd_2_1_0_5_2 nd_2_0_5500_5000 nd_2_0_5500_7000 0.016324
rd_2_1_0_5_3 nd_2_0_5500_7000 nd_2_0_5500_9000 0.016324
rd_2_1_0_6_0 nd_2_0_6500_1000 nd_2_0_6500_3000 0.016324
rd_2_1_0_6_1 nd_2_0_6500_3000 nd_2_0_6500_5000 0.016324
rd_2_1_0_6_2 nd_2_0_6500_5000 nd_2_0_6500_7000 0.016324
rd_2_1_0_6_3 nd_2_0_6500_7000 nd_2_0_6500_9000 0.016324
rd_2_1_0_7_0 nd_2_0_7500_1000 nd_2_0_7500_3000 0.016324
rd_2_1_0_7_1 nd_2_0_7500_3000 nd_2_0_7500_5000 0.016324
rd_2_1_0_7_2 nd_2_0_7500_5000 nd_2_0_7500_7000 0.016324
rd_2_1_0_7_3 nd_2_0_7500_7000 nd_2_0_7500_9000 0.016324
rd_2_1_0_8_0 nd_2_0_8500_1000 nd_2_0_8500_3000 0.016324
rd_2_1_0_8_1 nd_2_0_8500_3000 nd_2_0_8500_5000 0.016324
rd_2_1_0_8_2 nd_2_0_8500_5000 nd_2_0_8500_7000 0.016324
rd_2_1_0_8_3 nd_2_0_8500_7000 nd_2_0_8500_9000 0.016324
rd_2_1_0_9_0 nd_2_0_9500_1000 nd_2_0_9500_3000 0.016324
rd_2_1_0_9_1 nd_2_0_9500_3000 nd_2_0_9500_5000 0.016324
rd_2_1_0_9_2 nd_2_0_9500_5000 nd_2_0_9500_7000 0.016324
rd_2_1_0_9_3 nd_2_0_9500_7000 nd_2_0_9500_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_500_1000 nd_2_0_500_1000 0.005
rvd_1_0_0_1 nd_1_0_1500_1000 nd_2_0_1500_1000 0.005
rvd_1_0_0_2 nd_1_0_2500_1000 nd_2_0_2500_1000 0.005
rvd_1_0_0_3 nd_1_0_3500_1000 nd_2_0_3500_1000 0.005
rvd_1_0_0_4 nd_1_0_4500_1000 nd_2_0_4500_1000 0.005
rvd_1_0_0_5 nd_1_0_5500_1000 nd_2_0_5500_1000 0.005
rvd_1_0_0_6 nd_1_0_6500_1000 nd_2_0_6500_1000 0.005
rvd_1_0_0_7 nd_1_0_7500_1000 nd_2_0_7500_1000 0.005
rvd_1_0_0_8 nd_1_0_8500_1000 nd_2_0_8500_1000 0.005
rvd_1_0_0_9 nd_1_0_9500_1000 nd_2_0_9500_1000 0.005
rvd_1_0_1_0 nd_1_0_500_3000 nd_2_0_500_3000 0.005
rvd_1_0_1_1 nd_1_0_1500_3000 nd_2_0_1500_3000 0.005
rvd_1_0_1_2 nd_1_0_2500_3000 nd_2_0_2500_3000 0.005
rvd_1_0_1_3 nd_1_0_3500_3000 nd_2_0_3500_3000 0.005
rvd_1_0_1_4 nd_1_0_4500_3000 nd_2_0_4500_3000 0.005
rvd_1_0_1_5 nd_1_0_5500_3000 nd_2_0_5500_3000 0.005
rvd_1_0_1_6 nd_1_0_6500_3000 nd_2_0_6500_3000 0.005
rvd_1_0_1_7 nd_1_0_7500_3000 nd_2_0_7500_3000 0.005
rvd_1_0_1_8 nd_1_0_8500_3000 nd_2_0_8500_3000 0.005
rvd_1_0_1_9 nd_1_0_9500_3000 nd_2_0_9500_3000 0.005
rvd_1_0_2_0 nd_1_0_500_5000 nd_2_0_500_5000 0.005
rvd_1_0_2_1 nd_1_0_1500_5000 nd_2_0_1500_5000 0.005
rvd_1_0_2_2 nd_1_0_2500_5000 nd_2_0_2500_5000 0.005
rvd_1_0_2_3 nd_1_0_3500_5000 nd_2_0_3500_5000 0.005
rvd_1_0_2_4 nd_1_0_4500_5000 nd_2_0_4500_5000 0.005
rvd_1_0_2_5 nd_1_0_5500_5000 nd_2_0_5500_5000 0.005
rvd_1_0_2_6 nd_1_0_6500_5000 nd_2_0_6500_5000 0.005
rvd_1_0_2_7 nd_1_0_7500_5000 nd_2_0_7500_5000 0.005
rvd_1_0_2_8 nd_1_0_8500_5000 nd_2_0_8500_5000 0.005
rvd_1_0_2_9 nd_1_0_9500_5000 nd_2_0_9500_5000 0.005
rvd_1_0_3_0 nd_1_0_500_7000 nd_2_0_500_7000 0.005
rvd_1_0_3_1 nd_1_0_1500_7000 nd_2_0_1500_7000 0.005
rvd_1_0_3_2 nd_1_0_2500_7000 nd_2_0_2500_7000 0.005
rvd_1_0_3_3 nd_1_0_3500_7000 nd_2_0_3500_7000 0.005
rvd_1_0_3_4 nd_1_0_4500_7000 nd_2_0_4500_7000 0.005
rvd_1_0_3_5 nd_1_0_5500_7000 nd_2_0_5500_7000 0.005
rvd_1_0_3_6 nd_1_0_6500_7000 nd_2_0_6500_7000 0.005
rvd_1_0_3_7 nd_1_0_7500_7000 nd_2_0_7500_7000 0.005
rvd_1_0_3_8 nd_1_0_8500_7000 nd_2_0_8500_7000 0.005
rvd_1_0_3_9 nd_1_0_9500_7000 nd_2_0_9500_7000 0.005
rvd_1_0_4_0 nd_1_0_500_9000 nd_2_0_500_9000 0.005
rvd_1_0_4_1 nd_1_0_1500_9000 nd_2_0_1500_9000 0.005
rvd_1_0_4_2 nd_1_0_2500_9000 nd_2_0_2500_9000 0.005
rvd_1_0_4_3 nd_1_0_3500_9000 nd_2_0_3500_9000 0.005
rvd_1_0_4_4 nd_1_0_4500_9000 nd_2_0_4500_9000 0.005
rvd_1_0_4_5 nd_1_0_5500_9000 nd_2_0_5500_9000 0.005
rvd_1_0_4_6 nd_1_0_6500_9000 nd_2_0_6500_9000 0.005
rvd_1_0_4_7 nd_1_0_7500_9000 nd_2_0_7500_9000 0.005
rvd_1_0_4_8 nd_1_0_8500_9000 nd_2_0_8500_9000 0.005
rvd_1_0_4_9 nd_1_0_9500_9000 nd_2_0_9500_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_500_1000 0 40.0193
rdesr_0_0_0_0 nd_1_0_500_1000 nd_1_0_500_1000_ci 40.0193
cd_0_0_0_0 nd_1_0_500_1000_ci 0 4.99758e-11
rdload_0_0_0_1 nd_1_0_1500_1000 0 76.887
rdesr_0_0_0_1 nd_1_0_1500_1000 nd_1_0_1500_1000_ci 76.887
cd_0_0_0_1 nd_1_0_1500_1000_ci 0 2.60122e-11
rdload_0_0_0_2 nd_1_0_2500_1000 0 1132.23
rdesr_0_0_0_2 nd_1_0_2500_1000 nd_1_0_2500_1000_ci 1132.23
cd_0_0_0_2 nd_1_0_2500_1000_ci 0 1.76642e-12
rdload_0_0_0_3 nd_1_0_3500_1000 0 57.9221
rdesr_0_0_0_3 nd_1_0_3500_1000 nd_1_0_3500_1000_ci 57.9221
cd_0_0_0_3 nd_1_0_3500_1000_ci 0 3.45291e-11
rdload_0_0_0_4 nd_1_0_4500_1000 0 194.503
rdesr_0_0_0_4 nd_1_0_4500_1000 nd_1_0_4500_1000_ci 194.503
cd_0_0_0_4 nd_1_0_4500_1000_ci 0 1.02826e-11
rdload_0_0_0_5 nd_1_0_5500_1000 0 39.4069
rdesr_0_0_0_5 nd_1_0_5500_1000 nd_1_0_5500_1000_ci 39.4069
cd_0_0_0_5 nd_1_0_5500_1000_ci 0 5.07526e-11
rdload_0_0_0_6 nd_1_0_6500_1000 0 74.7908
rdesr_0_0_0_6 nd_1_0_6500_1000 nd_1_0_6500_1000_ci 74.7908
cd_0_0_0_6 nd_1_0_6500_1000_ci 0 2.67413e-11
rdload_0_0_0_7 nd_1_0_7500_1000 0 64.3193
rdesr_0_0_0_7 nd_1_0_7500_1000 nd_1_0_7500_1000_ci 64.3193
cd_0_0_0_7 nd_1_0_7500_1000_ci 0 3.10949e-11
rdload_0_0_0_8 nd_1_0_8500_1000 0 288.988
rdesr_0_0_0_8 nd_1_0_8500_1000 nd_1_0_8500_1000_ci 288.988
cd_0_0_0_8 nd_1_0_8500_1000_ci 0 6.92069e-12
rdload_0_0_0_9 nd_1_0_9500_1000 0 50.5449
rdesr_0_0_0_9 nd_1_0_9500_1000 nd_1_0_9500_1000_ci 50.5449
cd_0_0_0_9 nd_1_0_9500_1000_ci 0 3.95688e-11
rdload_0_0_0_10 nd_1_0_500_3000 0 38.4771
rdesr_0_0_0_10 nd_1_0_500_3000 nd_1_0_500_3000_ci 38.4771
cd_0_0_0_10 nd_1_0_500_3000_ci 0 5.1979e-11
rdload_0_0_0_11 nd_1_0_1500_3000 0 35.6398
rdesr_0_0_0_11 nd_1_0_1500_3000 nd_1_0_1500_3000_ci 35.6398
cd_0_0_0_11 nd_1_0_1500_3000_ci 0 5.61171e-11
rdload_0_0_0_12 nd_1_0_2500_3000 0 514.914
rdesr_0_0_0_12 nd_1_0_2500_3000 nd_1_0_2500_3000_ci 514.914
cd_0_0_0_12 nd_1_0_2500_3000_ci 0 3.88414e-12
rdload_0_0_0_13 nd_1_0_3500_3000 0 250.18
rdesr_0_0_0_13 nd_1_0_3500_3000 nd_1_0_3500_3000_ci 250.18
cd_0_0_0_13 nd_1_0_3500_3000_ci 0 7.99424e-12
rdload_0_0_0_14 nd_1_0_4500_3000 0 163.759
rdesr_0_0_0_14 nd_1_0_4500_3000 nd_1_0_4500_3000_ci 163.759
cd_0_0_0_14 nd_1_0_4500_3000_ci 0 1.22131e-11
rdload_0_0_0_15 nd_1_0_5500_3000 0 44.6245
rdesr_0_0_0_15 nd_1_0_5500_3000 nd_1_0_5500_3000_ci 44.6245
cd_0_0_0_15 nd_1_0_5500_3000_ci 0 4.48184e-11
rdload_0_0_0_16 nd_1_0_6500_3000 0 69.3758
rdesr_0_0_0_16 nd_1_0_6500_3000 nd_1_0_6500_3000_ci 69.3758
cd_0_0_0_16 nd_1_0_6500_3000_ci 0 2.88285e-11
rdload_0_0_0_17 nd_1_0_7500_3000 0 60.4315
rdesr_0_0_0_17 nd_1_0_7500_3000 nd_1_0_7500_3000_ci 60.4315
cd_0_0_0_17 nd_1_0_7500_3000_ci 0 3.30953e-11
rdload_0_0_0_18 nd_1_0_8500_3000 0 231.476
rdesr_0_0_0_18 nd_1_0_8500_3000 nd_1_0_8500_3000_ci 231.476
cd_0_0_0_18 nd_1_0_8500_3000_ci 0 8.64022e-12
rdload_0_0_0_19 nd_1_0_9500_3000 0 151.074
rdesr_0_0_0_19 nd_1_0_9500_3000 nd_1_0_9500_3000_ci 151.074
cd_0_0_0_19 nd_1_0_9500_3000_ci 0 1.32386e-11
rdload_0_0_0_20 nd_1_0_500_5000 0 43.6486
rdesr_0_0_0_20 nd_1_0_500_5000 nd_1_0_500_5000_ci 43.6486
cd_0_0_0_20 nd_1_0_500_5000_ci 0 4.58204e-11
rdload_0_0_0_21 nd_1_0_1500_5000 0 67.2266
rdesr_0_0_0_21 nd_1_0_1500_5000 nd_1_0_1500_5000_ci 67.2266
cd_0_0_0_21 nd_1_0_1500_5000_ci 0 2.97501e-11
rdload_0_0_0_22 nd_1_0_2500_5000 0 58.532
rdesr_0_0_0_22 nd_1_0_2500_5000 nd_1_0_2500_5000_ci 58.532
cd_0_0_0_22 nd_1_0_2500_5000_ci 0 3.41694e-11
rdload_0_0_0_23 nd_1_0_3500_5000 0 199.946
rdesr_0_0_0_23 nd_1_0_3500_5000 nd_1_0_3500_5000_ci 199.946
cd_0_0_0_23 nd_1_0_3500_5000_ci 0 1.00027e-11
rdload_0_0_0_24 nd_1_0_4500_5000 0 47.0016
rdesr_0_0_0_24 nd_1_0_4500_5000 nd_1_0_4500_5000_ci 47.0016
cd_0_0_0_24 nd_1_0_4500_5000_ci 0 4.25518e-11
rdload_0_0_0_25 nd_1_0_5500_5000 0 42.6418
rdesr_0_0_0_25 nd_1_0_5500_5000 nd_1_0_5500_5000_ci 42.6418
cd_0_0_0_25 nd_1_0_5500_5000_ci 0 4.69023e-11
rdload_0_0_0_26 nd_1_0_6500_5000 0 841.936
rdesr_0_0_0_26 nd_1_0_6500_5000 nd_1_0_6500_5000_ci 841.936
cd_0_0_0_26 nd_1_0_6500_5000_ci 0 2.37548e-12
rdload_0_0_0_27 nd_1_0_7500_5000 0 57.2784
rdesr_0_0_0_27 nd_1_0_7500_5000 nd_1_0_7500_5000_ci 57.2784
cd_0_0_0_27 nd_1_0_7500_5000_ci 0 3.49172e-11
rdload_0_0_0_28 nd_1_0_8500_5000 0 185.393
rdesr_0_0_0_28 nd_1_0_8500_5000 nd_1_0_8500_5000_ci 185.393
cd_0_0_0_28 nd_1_0_8500_5000_ci 0 1.07879e-11
rdload_0_0_0_29 nd_1_0_9500_5000 0 45.8437
rdesr_0_0_0_29 nd_1_0_9500_5000 nd_1_0_9500_5000_ci 45.8437
cd_0_0_0_29 nd_1_0_9500_5000_ci 0 4.36265e-11
rdload_0_0_0_30 nd_1_0_500_7000 0 41.8259
rdesr_0_0_0_30 nd_1_0_500_7000 nd_1_0_500_7000_ci 41.8259
cd_0_0_0_30 nd_1_0_500_7000_ci 0 4.78173e-11
rdload_0_0_0_31 nd_1_0_1500_7000 0 561.349
rdesr_0_0_0_31 nd_1_0_1500_7000 nd_1_0_1500_7000_ci 561.349
cd_0_0_0_31 nd_1_0_1500_7000_ci 0 3.56284e-12
rdload_0_0_0_32 nd_1_0_2500_7000 0 55.4611
rdesr_0_0_0_32 nd_1_0_2500_7000 nd_1_0_2500_7000_ci 55.4611
cd_0_0_0_32 nd_1_0_2500_7000_ci 0 3.60613e-11
rdload_0_0_0_33 nd_1_0_3500_7000 0 165.331
rdesr_0_0_0_33 nd_1_0_3500_7000 nd_1_0_3500_7000_ci 165.331
cd_0_0_0_33 nd_1_0_3500_7000_ci 0 1.20969e-11
rdload_0_0_0_34 nd_1_0_4500_7000 0 44.9818
rdesr_0_0_0_34 nd_1_0_4500_7000 nd_1_0_4500_7000_ci 44.9818
cd_0_0_0_34 nd_1_0_4500_7000_ci 0 4.44625e-11
rdload_0_0_0_35 nd_1_0_5500_7000 0 40.8092
rdesr_0_0_0_35 nd_1_0_5500_7000 nd_1_0_5500_7000_ci 40.8092
cd_0_0_0_35 nd_1_0_5500_7000_ci 0 4.90086e-11
rdload_0_0_0_36 nd_1_0_6500_7000 0 481.801
rdesr_0_0_0_36 nd_1_0_6500_7000 nd_1_0_6500_7000_ci 481.801
cd_0_0_0_36 nd_1_0_6500_7000_ci 0 4.15109e-12
rdload_0_0_0_37 nd_1_0_7500_7000 0 54.3381
rdesr_0_0_0_37 nd_1_0_7500_7000 nd_1_0_7500_7000_ci 54.3381
cd_0_0_0_37 nd_1_0_7500_7000_ci 0 3.68066e-11
rdload_0_0_0_38 nd_1_0_8500_7000 0 48.3629
rdesr_0_0_0_38 nd_1_0_8500_7000 nd_1_0_8500_7000_ci 48.3629
cd_0_0_0_38 nd_1_0_8500_7000_ci 0 4.1354e-11
rdload_0_0_0_39 nd_1_0_9500_7000 0 117.747
rdesr_0_0_0_39 nd_1_0_9500_7000 nd_1_0_9500_7000_ci 117.747
cd_0_0_0_39 nd_1_0_9500_7000_ci 0 1.69856e-11
rdload_0_0_0_40 nd_1_0_500_9000 0 93.8178
rdesr_0_0_0_40 nd_1_0_500_9000 nd_1_0_500_9000_ci 93.8178
cd_0_0_0_40 nd_1_0_500_9000_ci 0 2.13179e-11
rdload_0_0_0_41 nd_1_0_1500_9000 0 369.41
rdesr_0_0_0_41 nd_1_0_1500_9000 nd_1_0_1500_9000_ci 369.41
cd_0_0_0_41 nd_1_0_1500_9000_ci 0 5.41404e-12
rdload_0_0_0_42 nd_1_0_2500_9000 0 52.6207
rdesr_0_0_0_42 nd_1_0_2500_9000 nd_1_0_2500_9000_ci 52.6207
cd_0_0_0_42 nd_1_0_2500_9000_ci 0 3.80079e-11
rdload_0_0_0_43 nd_1_0_3500_9000 0 47.2331
rdesr_0_0_0_43 nd_1_0_3500_9000 nd_1_0_3500_9000_ci 47.2331
cd_0_0_0_43 nd_1_0_3500_9000_ci 0 4.23432e-11
rdload_0_0_0_44 nd_1_0_4500_9000 0 43.0223
rdesr_0_0_0_44 nd_1_0_4500_9000 nd_1_0_4500_9000_ci 43.0223
cd_0_0_0_44 nd_1_0_4500_9000_ci 0 4.64875e-11
rdload_0_0_0_45 nd_1_0_5500_9000 0 89.3091
rdesr_0_0_0_45 nd_1_0_5500_9000 nd_1_0_5500_9000_ci 89.3091
cd_0_0_0_45 nd_1_0_5500_9000_ci 0 2.23941e-11
rdload_0_0_0_46 nd_1_0_6500_9000 0 328.794
rdesr_0_0_0_46 nd_1_0_6500_9000 nd_1_0_6500_9000_ci 328.794
cd_0_0_0_46 nd_1_0_6500_9000_ci 0 6.08284e-12
rdload_0_0_0_47 nd_1_0_7500_9000 0 187.23
rdesr_0_0_0_47 nd_1_0_7500_9000 nd_1_0_7500_9000_ci 187.23
cd_0_0_0_47 nd_1_0_7500_9000_ci 0 1.06821e-11
rdload_0_0_0_48 nd_1_0_8500_9000 0 135.696
rdesr_0_0_0_48 nd_1_0_8500_9000 nd_1_0_8500_9000_ci 135.696
cd_0_0_0_48 nd_1_0_8500_9000_ci 0 1.47388e-11
rdload_0_0_0_49 nd_1_0_9500_9000 0 105.86
rdesr_0_0_0_49 nd_1_0_9500_9000 nd_1_0_9500_9000_ci 105.86
cd_0_0_0_49 nd_1_0_9500_9000_ci 0 1.88929e-11

*-- intentional decap
cd_add_cap0 nd_1_0_1500_3000 nd0 'dcap_int_val164'
cd_add_cap1 nd_1_0_3500_3000 nd1 'dcap_int_val165'
cd_add_cap2 nd_1_0_5500_3000 nd2 'dcap_int_val166'
cd_add_cap3 nd_1_0_7500_3000 nd3 'dcap_int_val167'
cd_add_cap4 nd_1_0_1500_7000 nd4 'dcap_int_val168'
cd_add_cap5 nd_1_0_3500_7000 nd5 'dcap_int_val169'
cd_add_cap6 nd_1_0_5500_7000 nd6 'dcap_int_val170'
cd_add_cap7 nd_1_0_7500_7000 nd7 'dcap_int_val171'
rd_add0 nd0 0 'esr43'
rd_add1 nd1 0 'esr44'
rd_add2 nd2 0 'esr45'
rd_add3 nd3 0 'esr46'
rd_add4 nd4 0 'esr47'
rd_add5 nd5 0 'esr48'
rd_add6 nd6 0 'esr49'
rd_add7 nd7 0 'esr50'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_0_9 nd_pad_port_0_9 nd_pad_0_9 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_1_8 nd_pad_port_1_8 nd_pad_1_8 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_2_9 nd_pad_port_2_9 nd_pad_2_9 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_3_8 nd_pad_port_3_8 nd_pad_3_8 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_4_9 nd_pad_port_4_9 nd_pad_4_9 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
xd_pad_5_8 nd_pad_port_5_8 nd_pad_5_8 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_6_7 nd_pad_port_6_7 nd_pad_6_7 ubump_subckt
xd_pad_6_9 nd_pad_port_6_9 nd_pad_6_9 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
xd_pad_7_6 nd_pad_port_7_6 nd_pad_7_6 ubump_subckt
xd_pad_7_8 nd_pad_port_7_8 nd_pad_7_8 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_8_5 nd_pad_port_8_5 nd_pad_8_5 ubump_subckt
xd_pad_8_7 nd_pad_port_8_7 nd_pad_8_7 ubump_subckt
xd_pad_8_9 nd_pad_port_8_9 nd_pad_8_9 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
xd_pad_9_4 nd_pad_port_9_4 nd_pad_9_4 ubump_subckt
xd_pad_9_6 nd_pad_port_9_6 nd_pad_9_6 ubump_subckt
xd_pad_9_8 nd_pad_port_9_8 nd_pad_9_8 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_500_1000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_500_3000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_500_5000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_500_7000  0.001
rd_pad2via_0_9 nd_pad_0_9 nd_2_0_500_9000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_1500_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_1500_3000  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_1500_5000  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_1500_7000  0.001
rd_pad2via_1_8 nd_pad_1_8 nd_2_0_1500_9000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_2500_1000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_2500_3000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_2500_5000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_2500_7000  0.001
rd_pad2via_2_9 nd_pad_2_9 nd_2_0_2500_9000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3500_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3500_3000  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_3500_5000  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_3500_7000  0.001
rd_pad2via_3_8 nd_pad_3_8 nd_2_0_3500_9000  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4500_1000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4500_3000  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_4500_5000  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_4500_7000  0.001
rd_pad2via_4_9 nd_pad_4_9 nd_2_0_4500_9000  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_5500_1000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_5500_3000  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_5500_5000  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_5500_7000  0.001
rd_pad2via_5_8 nd_pad_5_8 nd_2_0_5500_9000  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6500_1000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6500_3000  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_6500_5000  0.001
rd_pad2via_6_7 nd_pad_6_7 nd_2_0_6500_7000  0.001
rd_pad2via_6_9 nd_pad_6_9 nd_2_0_6500_9000  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7500_1000  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7500_3000  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_7500_5000  0.001
rd_pad2via_7_6 nd_pad_7_6 nd_2_0_7500_7000  0.001
rd_pad2via_7_8 nd_pad_7_8 nd_2_0_7500_9000  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8500_1000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8500_3000  0.001
rd_pad2via_8_5 nd_pad_8_5 nd_2_0_8500_5000  0.001
rd_pad2via_8_7 nd_pad_8_7 nd_2_0_8500_7000  0.001
rd_pad2via_8_9 nd_pad_8_9 nd_2_0_8500_9000  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_9500_1000  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_9500_3000  0.001
rd_pad2via_9_4 nd_pad_9_4 nd_2_0_9500_5000  0.001
rd_pad2via_9_6 nd_pad_9_6 nd_2_0_9500_7000  0.001
rd_pad2via_9_8 nd_pad_9_8 nd_2_0_9500_9000  0.001

.ends chiplet6
